US04680413
12.62 g (225.0 m mol) of potassium hydroxide was added to 100 ml of dimethoxyethane. The solution was then cooled at a temperature from 0° C. to 10° C., was fed with 11.66 g (50.0 m mol) of alpha-cyano-3,4-dimethoxycinnamic acid, and was stirred for 30 min. at the same temperature. The liquid was then fed dropwise for one hour, at room temperature, with a solution of 10.25 g (52.5 m mol) of tosyl methylisocyanide in 60 ml of dimethoxyethane. When the dropping ended, the mixed liquid was stirred for two hours at room temperature till the reaction completed. Then, to the reaction mixture 70 ml of water was added and neutralized to pH 8 by 10% HCl. From the neutralized mixture, dimethoxyethane was distilled off under reduced pressure, then 800 ml of water was further added thereto, and the mixture was stirred for 30 min. to precipitate crystals. The crystals were then filtered off and washed with water and dried. As the result, 10.50 g of 3-(3,4-dimethoxyphenyl)-4-cyanopyrrole was obtained. Yield 92.0%, Melting point 212°-214° C.

reactant | potassium hydroxide | 12.62 g | [OH-].[K+]
reactant | alpha-cyano-3,4-dimethoxycinnamic acid | 11.66 g | C(#N)C(C(=O)O)=CC1=CC(=C(C=C1)OC)OC | C12H11NO4
reactant | tosyl methylisocyanide | 10.25 g | S(=O)(=O)(C1=CC=C(C)C=C1)C[N+]#[C-] | C9H9NO2S
reactant | HCl | Cl | ClH
reactant | dimethoxyethane | 60 ml | C(OC)COC | C4H10O2
reactant | dimethoxyethane | 100 ml | C(OC)COC | C4H10O2
solvent | water | 70 ml | O | H2O
product | 3-(3,4-dimethoxyphenyl)-4-cyanopyrrole | 10.50 g, Yield 92.0% | COC=1C=C(C=CC1OC)C1=CNC=C1C#N | C13H12N2O2
